US03991076
A solution of 5.0 g (0.019 mole) of 3-(4-chlorophenacyl)-2,3,5,6-tetrahydrothiopyran-4-one, 7.14 g of dimethylaminoethylamine and 15 ml. of acetic acid is heated under reflux under nitrogen for 24 hours, diluted with water, acidified with hydrochloric acid, extracted with ether, neutralized with sodium hydroxide, and extracted with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated. The residue is recrystallized from ethanol to give off-white crystals of 1-(2-dimethylaminoethyl)-2(4-chlorophenyl)-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole, m.p. 91.5° to 92.5°C.

reactant | 3-(4-chlorophenacyl)-2,3,5,6-tetrahydrothiopyran-4-one | 0.019 mole, 5.0 g | ClC1=CC=C(C(CC2CSCCC2=O)=O)C=C1 | C13H13ClO2S
reactant | dimethylaminoethylamine | 7.14 g | CN(C)CCN | C4H12N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(2-dimethylaminoethyl)-2(4-chlorophenyl)-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole | CN(CCN1C2=C(C=C1C1=CC=C(C=C1)Cl)CSCC2)C | C17H21ClN2S
